Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Cephalosporins / Penicillins
 
Attending: ___.
 
Chief Complaint:
right sided rib/chest pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ h/o OA, here after fall in shower yesterday complaining of 
chest pain, difficulty breathing ___ pain. No head strike, loc, 
vomiting, abd pain, n/v.

 
Past Medical History:
PMH: Osteoporosis - three rib fractures ___, early 2000s x2) 
treated with motrin and binder, one right ___ fracture, and one 
tib fib fracture. Not on any medications currently
HTN - diagnosed in early ___, Hypothyroidism

PSH:
ORIF for tib fib fracture - ___
? Drainage of retroperitoneal hematoma, complication of delivery 
- ___
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Exam:
Vitals: T98 HR91 BP145/113 RR19 O292% RA               
Gen: A&Ox3, mildly uncomfortable, in NAD
HEENT: PERRLA, no scleral icterus, no palpable LAD
Pulm: CTAB, no decreased breath sounds, no w/r/r
CV: NRRR, no m/r/g
Chest: moderate/severe TTP in posterior right back. Mild TTP in 
anterior right chest.
Abd: soft, NT/ND, no rebound/guarding, no palpable masses
Ext: UE and ___ pulses intact bilaterally, WWP bilaterally, no 
c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits

Discharge Physical Exam:
VS: 97.5 PO ___ 20 90 RA 
HEENT: PERRL. EOMI. Nares patent. No deformity.
CV: RRR
PULM: Clear bilaterally. 
ABD: Soft, non-tender, non-distended.
EXT: Warm and dry. 2+ ___ pulses.
NEURO: A&Ox3. Follows commands and moves all extremities. 
 
Pertinent Results:
___ 12:50PM BLOOD WBC-10.6* RBC-3.88* Hgb-13.5 Hct-40.1 
MCV-103* MCH-34.8* MCHC-33.7 RDW-12.5 RDWSD-47.5* Plt ___
___ 12:50PM BLOOD Plt ___
___ 12:50PM BLOOD Glucose-103* UreaN-15 Creat-0.8 Na-142 
K-4.3 Cl-102 HCO3-27 AnGap-13

OSH Imaging:
CXR shows small L PTX and hemothorax.
CT: Rib ___ fracture.

___: New right base opacity may represent atelectasis.  
Small bilateral pleural  effusions.  Small left apical 
pneumothorax better seen on outside CT and  difficult to compare 
to outside chest radiograph on life image. Bilateral fractures 
better seen on outside chest CT.

___ CXR:
Persistent small right apical pneumothorax.  Unchanged right 
lung base 
opacity. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo F admitted to the Acute Care Trauma 
Surgery Service on ___ with right sided chest pain and 
shortness of breath after sustaining a fall the day prior. Chest 
xray and CT scan from outside hospital showed right sided rib 
fractures ___ and a small right apical pneumothorax. She was 
admitted to the trauma service for pain management and 
respiratory monitoring. 

Neuro: The patient was alert and oriented throughout 
hospitalization. She was given a pain regimen of Tylenol, 
ibuprofen, lidocaine patch and oxycodone as needed with good 
effect. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. The patient initially 
required supplemental oxygen to maintain O2 sat greater than 92% 
which was weaned to room air on hospital day 3. 
GI/GU/FEN: The patient was given a regular diet which was 
tolerated without difficulty. Patient's intake and output were 
closely monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible. The patient was seen and 
evaluated by social work and requested prescription for nicotine 
patch on discharge. Education was provided regarding not smoking 
while patch in place.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
Do not exceed 4000 mg acetaminophen/24 hours.   
2.  Docusate Sodium 100 mg PO BID  
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate  
4.  Lidocaine 5% Patch 1 PTCH TD QPM 
RX *lidocaine 5 % apply to rib pain daily Disp #*15 Patch 
Refills:*0 
5.  Nicotine Patch 14 mg TD DAILY 
DO NOT smoke while patch in place.  
RX *nicotine 14 mg/24 hour apply 1 patch to skin daily Disp #*30 
Patch Refills:*0 
6.  OxyCODONE (Immediate Release) 2.5 mg PO Q2H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Take lowest effective dose.  
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every 2 
hours Disp #*20 Tablet Refills:*0 
7.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation   
8.  Senna 8.6 mg PO BID:PRN Constipation  
9.  Hydrochlorothiazide 25 mg PO DAILY 
take as prescribed.   
10.  Levothyroxine Sodium 88 mcg PO DAILY  
11.  Metoprolol Succinate XL 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right sided rib fractures ___
Right apical hemo/pneumothorax 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Trauma Surgery Service on 
___ after a fall sustain right sided rib fractures and a 
small amount of air in your right lung spaced (called a 
pneumothorax). You were given pain medication and encouraged to 
mobilize and take deep breaths. You had multiple xrays of your 
chest that showed the air in your lung space resolving. You are 
now doing better, pain is better controlled, and you are ready 
to be discharged to home with the following discharge 
instructions:

* Your injury caused right sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

**Please have repeat chest xray done prior to clinic follow up 
appointment. Bring xray slip to ___ Building ___ floor 
radiology department prior to appointment. (You can have this 
done same day or ___ days prior to follow up appointment). 

 
Followup Instructions:
___